US05364873
20. Dibenzyl pyridine-2,5-dicarboxylate
Analogously to Example 1, 20 g of pyridine-2,5-dicarboxylic acid are converted into the acid chloride with 160 ml of thionyl chloride and this is reacted with 25.9 g of benzyl alcohol. The product is recrystallized from ethyl acetate, with the addition of active charcoal.

reactant | pyridine-2,5-dicarboxylic acid | 20 g | N1=C(C=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | benzyl alcohol | 25.9 g | C(C1=CC=CC=C1)O | C7H8O
solvent | thionyl chloride | 160 ml | S(=O)(Cl)Cl | Cl2OS
product | Dibenzyl pyridine-2,5-dicarboxylate | N1=C(C=CC(=C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C21H17NO4
